US07060827B2
In like manner to the preparation of 5-fluoro-N4-(3-hydroxyphenyl)-N2-[4-(3-phenyl-1,2,4-oxadiazol-5-yl)methyleneoxyphenyl]-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3-amino-5-fluorobenzotrifluoride were reacted to provide N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-fluoro-5-trifluoromethylphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.75 (s, 1H), 9.32 (d, 1H, J=1.2 Hz), 8.13 (d, 1H, J=3.6 Hz), 7.99 (d, 1H, J=12.3 Hz), 7.77 (s, 1H), 7.21 (d, 1H, J=2.4 Hz), 7.13 (dd, 1H, J=2.1 and 8.7 Hz), 7.03 (d, 1H, J=9.0 Hz), 6.80 (d, 1H, J=8.7 Hz), 4.21 (s, 4H); LCMS: purity: 97%; MS (m/e): 425(MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-amino-5-fluorobenzotrifluoride | NC=1C=C(C=C(C1)F)C(F)(F)F | C7H5F4N
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-fluoro-5-trifluoromethylphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC(=C1)C(F)(F)F)F | C19H13F5N4O2
